US06756378B2
A stirred solution of methyl 4-[N-[1-[4-[N′-(2-fluorophenyl)ureido]-3-methoxyphenylacetyl]-2-pyrrolidinylmethyl]-N-methylamino]-3-nitrobenzoate (901.0 mg, 1.518 mmol) in MeOH (18.0 mL) was hydrogenated over 5%Pd-C (1.35 g) at 45 psi overnight. The mixture was filtered and the filtrate was concentrated in vacuo. The residue was made basic with 1N NaOH solution and extracted with CHCl3. The extract was washed with brine, dried over Na2SO4, and the solvent was removed under a reduced pressure. The residue was chromatographed on silica-gel with CHCl3—MeOH (24:1, v/v) as eluent to afford 283.7 mg (48%) methyl 3-amino-4-[N-[1-[4-[N′-(2-fluorophenyl)ureido]-3-methoxy-phenylacetyl]-2-pyrrolidinylmethyl]-N-methylamino]benzoate as a brownish amorphous solid, which was used to the subsequent reaction without further purification.

reactant | methyl 4-[N-[1-[4-[N′-(2-fluorophenyl)ureido]-3-methoxyphenylacetyl]-2-pyrrolidinylmethyl]-N-methylamino]-3-nitrobenzoate | 1.518 mmol, 901.0 mg | FC1=C(C=CC=C1)NC(NC1=C(C=C(C=C1)CC(=O)N1C(CCC1)CN(C)C1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-])OC)=O | C30H32FN5O7
solvent | MeOH | 18.0 mL | CO | CH4O
catalyst | Pd-C | 1.35 g | [Pd] | Pd
product | methyl 3-amino-4-[N-[1-[4-[N′-(2-fluorophenyl)ureido]-3-methoxy-phenylacetyl]-2-pyrrolidinylmethyl]-N-methylamino]benzoate | 283.7 mg, 48% | NC=1C=C(C(=O)OC)C=CC1N(C)CC1N(CCC1)C(CC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC=C1)F)OC)=O | C30H34FN5O5
